US04443449
A solution of 2-[1-(4-chlorophenyl)cyclobutyl]acetonitrile (30 g) prepared as described in Example 1 in ether (100 ml) was added to the reaction product of methyl bromide gas and magnesium turnings (5.95 g) in ether (80 ml). The mixture was heated under reflux for four hours. Ice and then concentrated hydrochloric acid (105 ml) were added and the mixture heated under reflux until all solid material had dissolved. The aqueous layer was washed with ether and the ether used for washing was combined with the ether phase of the reaction mixture. The combined ether extracts were washed with water, dried and evaporated to yield a residue which was distilled twice to yield 1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one (b.p. 133°-136°/2.5 mm Hg).

reactant | 2-[1-(4-chlorophenyl)cyclobutyl]acetonitrile | 30 g | ClC1=CC=C(C=C1)C1(CCC1)CC#N | C12H12ClN
reactant | methyl bromide | CBr | CH3Br
reactant | magnesium | 5.95 g | [Mg] | Mg
reactant | hydrochloric acid | 105 ml | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 80 ml | CCOCC | C4H10O
product | 1-[1-(4-chlorophenyl)cyclobutyl]propan-2-one | ClC1=CC=C(C=C1)C1(CCC1)CC(C)=O | C13H15ClO
